Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodine; Iodine Containing / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain and RLE claudication
 
Major Surgical or Invasive Procedure:
Angiogram x 2, celiac and SMA angioplasty

 
History of Present Illness:
___ with bilateral PVD presents with ___ abdominal pain
which has become unbearable and worsening RLE claudication which
has been controlled on oral pain medications.  He underwent an
arteriogram in ___ that showed occluded SFA with runoff via
the peroneal and ___, the AT was occluded.  Plans were made to
bring him back for a Left Fem to AK-pop bypass, but he failed to
keep his follow up appointments.  He now presents with worsening
claudication in his right leg.  He can only walk a few steps now
and then he gets pain in his calf and thigh.  Resting and
percocet alleviate the pain.  This is much worse than it was a
few months ago.  He does get pain in his left leg too, but his
right leg is more severe.  He does not have rest pain.  He 
denies
fevers, chills, nausea, emesis, paresthesias in his feet, and
weakness.  He has no lesions on his feet.  He quit smoking ___
years ago but does have ___ cigs to calm his nerves.  His feet
have never been cold or turned blue.

 
Past Medical History:
1. HTN
2. CAD, s/p CABG ___
3. Hyperlipidemia
4. Carotid artery disease, s/p L CEA approximately ___
5. Taxus drug-eluting stent and a 2.0mm MiniVision stent
6. PTCA & stenting Cypher ___ 3, LMA into ostial LAD, ___
7. S/p CVA x 2 in ___, R-sided weakness & expressive aphasia, 
(now
improved)
8. s/p Fall / foot trauma ___, no surgery, wheelchair bound 6 
months
9. GERD
10. Depression
11. DJD
12. Chronic kidney disease 
 
Social History:
___
Family History:
Father died at age ___ of unknown cause. Mother died in her ___ 
of Influenza. 
 
Physical Exam:
At time of discharge:

AVSS
A&O X 3, NAD
PERRL, EOMI
RRR
CTAB
Abdomen soft, nondistended, mild generalized tenderness, no 
rebound or guarding
___ warm
Pulses: b/l fem 2+, pop, DP and ___ all dopplerable
 
Pertinent Results:
___ 07:10AM BLOOD WBC-10.0# RBC-3.39* Hgb-9.8* Hct-29.8* 
MCV-88 MCH-28.8 MCHC-32.8 RDW-18.2* Plt ___
___ 06:50AM BLOOD Hct-32.6*
___ 06:50AM BLOOD UreaN-27* Creat-2.2* K-3.4
___ 07:10AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
Mr. ___ was admitted on ___ under the care of Dr. 
___. He underwent ___ angiogram on ___ that showed occlusion 
of the superficial femoral artery with
reconstitution in the above-knee popliteal artery and 2-vessel 
runoff to the foot.  Given these findings, the operation was 
terminated at that point with a plan for surgical bypass at a 
later point. The following day he underwent a mesenteric 
angiogram via brachial approcah. He underwent balloon 
angioplasty of iliac artery stenosis and balloon angioplasty of 
SMA stenosis. Post-operatively he recovered well. He continued 
to have generalized abdominal pain and a GI consult was 
obtained. Since he had evidence of gastritis and duodenal ulcers 
in ___ on EGD, and since he
is unsure if he took PPI since then, the gastroenterologists 
felt that remaining ulcers may also be contributing to the 
abdominal pain. They recommended increasing PPI to 40 mg PO BID 
for 2 weeks, avoiding NSAIDs and will consider repeat EGD as 
outpatient if no improvement. He was discharged home on ___ 
tolerating a regular diet but with similar abdominal complaints 
as prior.
 
Medications on Admission:
amlodipine 10mg daily, clonidine 0.1mg bid, isosorbide 
mononitrate 180mg daily, metoprolol XL 50mg daily, omeprazole 
40mg daily, papaverine 150mg bid, simvastatin 40mg daily, 
aspirin 325mg daily, plavix 75mg daily, niacin 1000mg daily, 
benicar 40mg daily, clonazepam 0.5mg tid, zolpidem 5mg daily, 
MVI  
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: Three (3) Tablet Sustained Release 24 hr PO DAILY (Daily).  

4. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Papaverine 150 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO Q12H (every 12 hours).  
6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Niacin 500 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
8. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
9. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
12. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
14. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*80 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLE ischemia 
Abdominal pain

 
Discharge Condition:
Good

 
Discharge Instructions:
Call your doctor or go to the ER if you experience any of the 
following: fever > 101.5, severe pain, bleeding from groin, or 
any other concerning symptoms
 
Followup Instructions:
___